US04808762
Alternatively, the substituted-phenyl cyclopropyl ketones may be prepared by reacting cyclopropanecarboxylic acid chloride with an appropriately substituted-phenyl compound in the presence of a Friedel-Crafts catalyst, e.g., aluminum chloride. In Example 6, Step A, cyclopropanecarboxylic acid chloride is reacted with ethoxybenzene in the presence of aluminum chloride, yielding cyclopropyl (4-ethoxyphenyl) ketone.

reactant | cyclopropanecarboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethoxybenzene | C(C)OC1=CC=CC=C1 | C8H10O
product | cyclopropyl (4-ethoxyphenyl) ketone | C(C)OC1=CC=C(C=C1)C(=O)C1CC1 | C12H14O2
